US05098919
(7-Isopropoxycarbonyl-6-methyl-2,3-dihydropyrrolo[2,1-b]-thiazol-3-yl)acetamide
1.0 g of methyl (7-isopropoxycarbonyl-6-methyl-2,3-dihydropyrrolo[2,1-b]thiazol-3-yl)acetate was dissolved in 30 ml of methanol and 30 ml of concentrated aqueous ammonia was added thereto. The obtained mixture was stirred at room temperature for 6 days. After distilling off the ammonia, the residue was extracted with chloroform. The chloroform layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After distilling off the solvent, the obtained oily residue was crystallized from ether/n-hexane. Thus 0.3 g of the title compound was obtained.

reactant | methyl (7-isopropoxycarbonyl-6-methyl-2,3-dihydropyrrolo[2,1-b]thiazol-3-yl)acetate | 1.0 g | C(C)(C)OC(=O)C=1C(=CN2C1SCC2CC(=O)OC)C | C14H19NO4S
reactant | ammonia | 30 ml | N | H3N
solvent | methanol | 30 ml | CO | CH4O
product | (7-Isopropoxycarbonyl-6-methyl-2,3-dihydropyrrolo[2,1-b]-thiazol-3-yl)acetamide | 0.3 g | C(C)(C)OC(=O)C=1C(=CN2C1SCC2CC(=O)N)C | C13H18N2O3S
